US09302989B2
N-(4-{(1E)-3-[benzyl(methyl)amino]prop-1-en-1-yl}-phenyl)-1,3-dihydro-2H-isoindole-2-carboxamide
The title compound was prepared as described in Example 280, substituting (E)-N-benzyl-N-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)prop-2-en-1-amine for 1H-pyrazol-3-ylboronic acid and N-(4-bromophenyl)isoindoline-2-carboxamide for 5-bromo-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide. 1H NMR (400 MHz, DMSO-d6, Temp=90° C.) δ ppm 8.12 (s, 1H), 7.52 (m, 2H), 7.37-7.18 (m, 11H), 6.48 (d, J=15.8 Hz, 1H), 6.18 (dt, J=15.8, 6.5 Hz, 1H), 4.77 (s, 4H), 3.53 (s, 2H), 3.15 (dd, J=6.5, 1.4 Hz, 2H), 2.18 (s, 3H); MS (ESI(+)) m/e 398 (M+H)+.

reactant | 1H-pyrazol-3-ylboronic acid | N1N=C(C=C1)B(O)O | C3H5BN2O2
reactant | N-(4-bromophenyl)isoindoline-2-carboxamide | BrC1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C15H13BrN2O
reactant | 5-bromo-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide | BrC=1C=C2CN(CC2=CC1)C(=O)NC1=CC=C(C=C1)C(NCCC)=O | C19H20BrN3O2
product | N-(4-{(1E)-3-[benzyl(methyl)amino]prop-1-en-1-yl}-phenyl)-1,3-dihydro-2H-isoindole-2-carboxamide | C(C1=CC=CC=C1)N(C/C=C/C1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1)C | C26H27N3O
